US07091204B2
2,5-Dichloro-4-methylthiophene-3-sulfonyl chloride
To a cooled (10° C.) solution of 3-methylthiophene (5 g, 50 mmol) in dichloromethane (15 mL) was added a solution of sulfuryl chloride (8.6 mL) in dichloromethane (5 mL). The reaction mixture was maintained at 10° C. for 30 minutes, then at ambient temperature for 16 hours. The reaction was concentrated and redissolved in dichloromethane (30 mL) and cooled to −10° C. To the cooled solution was added chlorosulfonic acid (2 mL, 100 mmol). The reaction was maintained at −10° C. for 30 minutes, then at ambient temperature for 16 hours, at which time it was poured into ice water (50 mL) and extracted with dichloromethane (50 mL). The organic layer was dried (Mg2SO4) and concentrated to furnish a brown oil (3.3 g, 25%).

reactant | 3-methylthiophene | 50 mmol, 5 g | CC1=CSC=C1 | C5H6S
reactant | sulfuryl chloride | 8.6 mL | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | chlorosulfonic acid | 100 mmol, 2 mL | ClS(=O)(=O)O | ClHO3S
reactant | dichloromethane | 15 mL | ClCCl | CH2Cl2
reactant | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 2,5-Dichloro-4-methylthiophene-3-sulfonyl chloride | 3.3 g, 25% | ClC=1SC(=C(C1S(=O)(=O)Cl)C)Cl | C5H3Cl3O2S2
